US06329389B1
Methyl 2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate
Sodium borohydride (1.10 g) was added to the mixed solution of dimethyl 2-[(2-nitrophenyl)methylidene]malonate (15.2 g) in ethyl acetate (50 ml) and methanol (200 ml) at 0° C. The reaction mixture was stirred at 0° C. for 20 minutes. Water was added to the mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. 5% Palladium-carbon (6.26 g) was added to the mixed solution of the residue in THF (100 ml) and methanol (100 ml), and catalytic hydrogenation was conducted at room temperature under atmospheric pressure for 3 days. The catalyst was removed by filtration, and the filtrate was concentrated. The obtained crude crystals were washed with a mixed solution of ethyl acetate/hexane=1/4 to give the entitled compound (9.487 g).

reactant | Sodium borohydride | 1.10 g | [BH4-].[Na+]
reactant | dimethyl 2-[(2-nitrophenyl)methylidene]malonate | 15.2 g | [N+](=O)([O-])C1=C(C=CC=C1)C=C(C(=O)OC)C(=O)OC | C12H11NO6
reactant | Water | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 200 ml | CO | CH4O
product | Methyl 2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate | 9.487 g | O=C1NC2=CC=CC=C2CC1C(=O)OC | C11H11NO3
